US06927228B2
(d) N-(4′-[1,3]Dioxolan-2-ylbiphenyl-3-ylmethyl)-N-ethylbenzamide
600 mg (1.7 mmol) of N-(4′-[1,3]dioxolan-2-ylbiphenyl-3-ylmethyl)benzamide, 5 ml of THF and 206 mg (1.85 mmol) of potassium tert-butoxide are introduced into a three-necked flask under nitrogen. 300 μl 15 (3.7 mmol) of iodoethane are added dropwise. The reaction mixture is stirred at room temperature for 3 hours, extracted with ethyl acetate, washed with water, dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (70/30). 400 mg (64%) of the desired product are obtained.

reactant | N-(4′-[1,3]dioxolan-2-ylbiphenyl-3-ylmethyl)benzamide | 1.7 mmol, 600 mg | O1C(OCC1)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(C1=CC=CC=C1)=O | C23H21NO3
reactant | potassium tert-butoxide | 1.85 mmol, 206 mg | CC(C)([O-])C.[K+]
reactant | iodoethane | ICC | C2H5I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(4′-[1,3]Dioxolan-2-ylbiphenyl-3-ylmethyl)-N-ethylbenzamide | 400 mg, 64% | O1C(OCC1)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=CC=C1)=O)CC | C25H25NO3
